US04331656
Preparation of 3,3'-(1,6-hexanediyl dithio) dialanine--Compound No. 47
At 70° C., under nitrogen, a mixture of 137 g of 1,6-hexanediyl dimethanesulfonate and 175.5 g of cysteine-hydrochloride monohydrated in 1.5 l of water containing a little ethanol is agitated. There is then slowly added a solution of 5 N NaOH so that the pH of the reaction mixture is maintained between 8.5 and 9.5. At the end of the reaction the mixture is acidified to pH 5.2 with a solution of HCl. The precipitate is filtered, washed thoroughly with water, then dried and analyzed.

reactant | 1,6-hexanediyl dimethanesulfonate | 137 g | CS(=O)(=O)OCCCCCCOS(=O)(=O)C | C8H18O6S2
reactant | cysteine-hydrochloride | 175.5 g | Cl.N[C@@H](CS)C(=O)O
reactant | NaOH | 5 N | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 1.5 l | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3,3'-(1,6-hexanediyl dithio) dialanine | C(CCCCCSC[C@H](N)C(=O)O)SC[C@H](N)C(=O)O | C12H24N2O4S2
